US07737149B2
N-[5-[2-(3,5-Dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]-4-(3,5-dimethylpiperazin-1-yl)benzamide
N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]-4-(3,5-dimethylpiperazin-1-yl)benzamide was prepared as for Example 94, but starting from methyl 4-(3,5-dimethylpiperazin-1-yl)benzoate (221 mg, 0.84 mmol ), tert-butyl 5-amino-3-[2-(3,5-dimethoxyphenyl)ethyl]-1H-pyrazole-1-carboxylate (244 mg, 0.7 mmol) and 1M NaHMDS (1.13 ml, 1.13 mmol) in THF (5 ml). The crude product was purified by reverse phase prep. HPLC (basic) using a 34-54% gradient of acetonitrile in water containing 1% 0.880 ammonia. The clean fractions were taken and evaporated to afford the title compound as a white solid (34 mg, 10%); 1H NMR (399.9 MHz, DMSO-d6) δ 1.04 (6H, d), 2.22 (2H, t), 2.53 (2H, d), 2.82 (2H, t), 2.87 (4H, s), 3.71 (1H, s), 3.73 (7H, s), 6.33 (1H, t), 6.42 (2H, d), 6.44 (1H, s), 6.94 (2H, d), 7.89 (2H, d), 10.27 (1H, s), 12.07 (1H,s).

reactant | methyl 4-(3,5-dimethylpiperazin-1-yl)benzoate | 0.84 mmol, 221 mg | CC1CN(CC(N1)C)C1=CC=C(C(=O)OC)C=C1 | C14H20N2O2
reactant | tert-butyl 5-amino-3-[2-(3,5-dimethoxyphenyl)ethyl]-1H-pyrazole-1-carboxylate | 0.7 mmol, 244 mg | NC1=CC(=NN1C(=O)OC(C)(C)C)CCC1=CC(=CC(=C1)OC)OC | C18H25N3O4
reactant | NaHMDS | 1.13 mmol, 1M, 1.13 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | N-[5-[2-(3,5-Dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]-4-(3,5-dimethylpiperazin-1-yl)benzamide | 34 mg, 10% | COC=1C=C(C=C(C1)OC)CCC=1C=C(NN1)NC(C1=CC=C(C=C1)N1CC(NC(C1)C)C)=O | C26H33N5O3
